US05496853
Synthesis of N-(2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl)hexadecaneamide (429)
A 171 mg amount of hexadecanecarboxylic acid chloride was added to a solution of 100 mg of 7-amino-2,2,6-trimethyl-2,3-dihydrobenzofuran and 63 mg of triethylamine in 2 ml of dichloromethane, and the mixture was stirred at room temperature for one hour. A 10 ml amount of a saturated sodium hydrogencarbonate solution was added thereto, and the mixture was extracted twice with 20 ml of ethyl acetate.

reactant | hexadecanecarboxylic acid chloride | C(CCCCCCCCCCCCCCC)C(=O)Cl | C17H33ClO
reactant | 7-amino-2,2,6-trimethyl-2,3-dihydrobenzofuran | 100 mg | NC1=C(C=CC=2CC(OC21)(C)C)C | C11H15NO
reactant | triethylamine | 63 mg | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl)hexadecaneamide | CC1(OC2=C(C1)C=CC(=C2NC(CCCCCCCCCCCCCCC)=O)C)C | C27H45NO2
